US05670514
(+)-(4aR)-(10bR)-4-methyl-8-(3,5-dimethylphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis (triphenylphosphine)palladium(0) (23 mg, 0.02 mmol), 3,5-dimethylphenylboronic acid (117 mg, 0.78 mmol), 0.65 mL of 2M sodium carbonate solution, 1.5 mL of toluene, and 1 mL of methanol, fitted with a reflux condenser, and the stirred mixture was healed at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with dichloromethane (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 186 mg (86%) of the title compound as a white solid. mp 129°-130°. FDMS: m/e =333. α[D]589 =+73.31 (c=1.00, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3,5-dimethylphenylboronic acid | 0.78 mmol, 117 mg | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | (+)-(4aR)-(10bR)-4-methyl-8-(3,5-dimethylphenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 186 mg, 86% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC(=C3)C)C)C)=O | C23H27NO
